USRE038090E1
Synthesis of 1-(3-C-triisopropylsilylethynyl-β-D-ribofuranosyl)uracil (Compound 37)
Added to 2.0 g of 1-(2-O-(tert-butyldimethylsilyl)-3-C-triisopropylsilylethynyl-β-D-ribofuranosyl)uracil obtained above were 50 of a 2.6% (w/v) hydrochloric acid/methanol solution, and the mixture was stirred at room temperature. After 180 minutes, the solvent was distilled off under reduced pressure, and the residue was azeotropically distilled with ethanol, purified by column chromatography on covered silica gel (chloroform:methanol=50:1-15:1) and then suspended in hexane. The suspension was filtered to obtain 1.4 g (yield: 89%) of the title compound as a white powdered substance.

reactant | 1-(2-O-(tert-butyldimethylsilyl)-3-C-triisopropylsilylethynyl-β-D-ribofuranosyl)uracil | 2.0 g | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](O[C@@H]([C@]1(O)C#C[Si](C(C)C)(C(C)C)C(C)C)CO)N1C(=O)NC(=O)C=C1 | C26H46N2O6Si2
reactant | hydrochloric acid methanol | Cl.CO
product | 1-(3-C-triisopropylsilylethynyl-β-D-ribofuranosyl)uracil | 1.4 g, yield: 89% | C(C)(C)[Si](C(C)C)(C(C)C)C#C[C@@]1([C@H]([C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C=C1)O)O | C20H32N2O6Si
